US07572820B2
4-Chloro-1-(cyanomethyl)-2-(difluoromethyl)-1H-indole-5-carbonitrile
Synthesized as described in Example 4 using 4-chloro-2-(difluoromethyl)-1H-indole-5-carbonitrile, bromoacetonitrile (2 eq) and Cs2CO3 (2 eq): MS (ES) m/z 264 (M−1).

reactant | 4-chloro-2-(difluoromethyl)-1H-indole-5-carbonitrile | ClC1=C2C=C(NC2=CC=C1C#N)C(F)F | C10H5ClF2N2
reactant | bromoacetonitrile | 2 eq | BrCC#N | C2H2BrN
reactant | Cs2CO3 | 2 eq | C(=O)([O-])[O-].[Cs+].[Cs+]
product | 4-Chloro-1-(cyanomethyl)-2-(difluoromethyl)-1H-indole-5-carbonitrile | ClC1=C2C=C(N(C2=CC=C1C#N)CC#N)C(F)F | C12H6ClF2N3
